US06340759B1
According to the method of Example 10-1, N-methyl-2-methylbenzamide (5.97 g) and 4-(2-benzyloxyethoxy)-3-methoxybenzonitrile (9.57 g) were reacted, to give 3-[4-(2-benzyloxyethoxy)-3-methoxyphenyl]isoquinolin-1-one (3.20 g)

reactant | N-methyl-2-methylbenzamide | 5.97 g | CNC(C1=C(C=CC=C1)C)=O | C9H11NO
reactant | 4-(2-benzyloxyethoxy)-3-methoxybenzonitrile | 9.57 g | C(C1=CC=CC=C1)OCCOC1=C(C=C(C#N)C=C1)OC | C17H17NO3
product | 3-[4-(2-benzyloxyethoxy)-3-methoxyphenyl]isoquinolin-1-one | 3.20 g | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O)OC | C25H23NO4
